US05438035
Preparation of 4-Tert-butyl-3,4-dihydro-7-iodo-1H-1,4-benzodiazepine-2,5-dione
Bis(trifluoroacetoxy)phenyl iodine (2.05 g, 4.7 mmol) is added to a solution of 4-tert-butyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (1.0 g, 4.3 mmol) and iodine (1.1 g, 4.3 mmol) in methylene chloride. The reaction mixture is stirred overnight at room temperature, diluted with ethyl acetate, washed sequentially with saturated sodium hydrogen carbonate solution, 1N sodium thiosulfate solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. Chromatography of the residue using silica gel and 20% to 25% ethyl acetate in hexanes solutions gives the title product as a beige solid (0.9 g, mp 230°-232° C.).

reactant | Bis(trifluoroacetoxy)phenyl iodine | 4.7 mmol, 2.05 g | FC(C(=O)OI(C1=CC=CC=C1)OC(C(F)(F)F)=O)(F)F | C10H5F6IO4
reactant | 4-tert-butyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 4.3 mmol, 1.0 g | C(C)(C)(C)N1CC(NC2=C(C1=O)C=CC=C2)=O | C13H16N2O2
reactant | iodine | 4.3 mmol, 1.1 g | II | I2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Tert-butyl-3,4-dihydro-7-iodo-1H-1,4-benzodiazepine-2,5-dione | 0.9 g | C(C)(C)(C)N1CC(NC2=C(C1=O)C=C(C=C2)I)=O | C13H15IN2O2
